US06153750
Methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate in methylcyclohexane/chloromethoxypyrimidine (200.9 g, 59.91% strength) was vacuum distilled to leave the propanoate melt. A solution of the potassium salt of 2-cyanophenol was then prepared by mixing 2-cyanophenol (53.2 g) and potassium carbonate (81.2 g) in water (275 g). This solution was added to the methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate melt, which had previously been cooled to 90° C. Potassium fluoride (15.9 g) and tetrabutylammonium bromide (21.5 g) was then added to the reaction solution. The resulting mixture was stirred at 105° C. for 23 hours. Any distillates were allowed to come off under atmospheric conditions. (E)-methyl 2-[2-(6-(2-cyanophenoxy)pyrimidin-4-yloxy)phenyl]-3-methoxypropenoate was produced (77.9 area %).

reactant | potassium | [K] | K
reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | 2-cyanophenol | 53.2 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | potassium carbonate | 81.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)C(C(=O)OC)C(OC)OC | C16H17ClN2O5
reactant | Potassium fluoride | 15.9 g | [F-].[K+]
solvent | water | 275 g | O | H2O
catalyst | tetrabutylammonium bromide | 21.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (E)-methyl 2-[2-(6-(2-cyanophenoxy)pyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | C(#N)C1=C(OC2=CC(=NC=N2)OC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=CC=C1 | C22H17N3O5
